US08686152B2
To a solution of 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester (10.65 mmol; 4.98 g) in tetrahydrofuran (20 mL) and ethanol (40 mL) was added 10% palladium on carbon (3 g), and the resulting mixture was hydrogenated under 50 psi of hydrogen pressure for 5 hours at room temperature. The catalyst was removed via filtration, and the filtrate was evaporated to yield 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester. 1H-NMR (CDCl3): 7.95 (2H, d), 7.19 (2H, d), 3.90 (3H, s), 2.92 (4H, m), 2.05 (2H, s), 1.40-1.70 (4H, m), 1.45 (9H, s).

reactant | 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid 4-benzyl ester 1-tert-butyl ester | 10.65 mmol, 4.98 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC1=CC=CC=C1)CC1=CC=C(C=C1)C(=O)OC | C27H33NO6
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | 4-(4-methoxycarbonyl-benzyl)-piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=C(C=C1)C(=O)OC | C20H27NO6
